US08808964B2
Synthesis of 4-(2-methoxyethoxy)naphthalene-1-tetrahydrothiophenium 2-(adamantane-1-carbonyloxy)-1,1,3,3,3-pentafluoropropanesulfonate (PAG-2)
In 10 g of Eaton's reagent (Aldrich, diphosphorus pentoxide/methanesulfonic acid solution) was dispersed 5.0 g (0.024 mol) of 1-(2-methoxyethoxy)naphthalene in Reference Synthesis Example 3. With stirring, 5.1 g (0.049 mol) of tetramethylene sulfoxide was added dropwise to the dispersion. The solution was matured overnight at room temperature and combined with 30 g of water and 30 g of diisopropyl ether, from which a water layer was separated. The water layer was again washed with 30 g of diisopropyl ether. This aqueous solution was combined with an aqueous solution of sodium 1,1,3,3,3-pentafluoro-2-(adamantane-1-carbonyloxy)propanesulfonate (corresponding to 0.007 mol) synthesized according to the formulation described in JP-A 2007-145797, after which extraction was effected twice with 50 g of dichloromethane. The organic layer was washed with water, and the solvent was distilled off in vacuum. The residue was poured into isopropyl ether for crystallization, filtered and dried, obtaining the target compound. White crystal, 7.9 g, yield 94%.

reactant | 1-(2-methoxyethoxy)naphthalene | 0.024 mol, 5.0 g | COCCOC1=CC=CC2=CC=CC=C12 | C13H14O2
reactant | tetramethylene sulfoxide | 0.049 mol, 5.1 g | C1CCCS1=O | C4H8OS
reactant | diisopropyl ether | 30 g | C(C)(C)OC(C)C | C6H14O
reactant | sodium 1,1,3,3,3-pentafluoro-2-(adamantane-1-carbonyloxy)propanesulfonate | 0.007 mol | FC(C(C(F)(F)F)OC(=O)C12CC3CC(CC(C1)C3)C2)(S(=O)(=O)[O-])F.[Na+]
solvent | Eaton's reagent | 10 g | CS(=O)(=O)O.O=P12OP3(=O)OP(=O)(O1)OP(=O)(O2)O3
solvent | water | O | H2O
solvent | water | 30 g | O | H2O
product | 4-(2-methoxyethoxy)naphthalene 1-tetrahydrothiophenium 2-(adamantane-1-carbonyloxy)-1,1,3,3,3-pentafluoropropanesulfonate | yield 94% | COCCOC1=CC=CC2=CC=CC=C12.C12(CC3CC(CC(C1)C3)C2)C(=O)OC(C(S(=O)(=O)[O-])(F)F)C(F)(F)F.[SH+]2CCCC2 | InChI=1S/C14H17F5O5S.C13H14O2.C4H8S/c15-13(16,17)10(14(18,19)25(21,22)23)24-11(20)12-4-7-1-8(5-12)3-9(2-7)6-12;1-14-9-10-15-13-8-4-6-11-5-2-3-7-12(11)13;1-2-4-5-3-1/h7-10H,1-6H2,(H,21,22,23);2-8H,9-10H2,1H3;1-4H2
